US07432270B2
2-(RS)-(Isoquinolin-1-ylaminomethyl)-piperidine-1-carboxylic acid tert butyl ester
The title compound (0.76 g) was prepared from (RS) 2-aminomethyl-piperidine-1-carboxylic acid tert butyl ester (1.6 ml) and 1-chloroisoquinoline (0.8 g) according to the method used for the preparation of the compound of D8.

reactant | (RS) 2-aminomethyl-piperidine-1-carboxylic acid tert butyl ester | 1.6 ml | C(C)(C)(C)OC(=O)N1C(CCCC1)CN | C11H22N2O2
reactant | 1-chloroisoquinoline | 0.8 g | ClC1=NC=CC2=CC=CC=C12 | C9H6ClN
product | 2-(RS)-(Isoquinolin-1-ylaminomethyl)-piperidine-1-carboxylic acid tert butyl ester | 0.76 g | C(C)(C)(C)OC(=O)N1C(CCCC1)CNC1=NC=CC2=CC=CC=C12 | C20H27N3O2
